US05488131
EXAMPLE 6 [S-(R*,R*)]-N2-(benzyloxycarbonyl)-N1-(2-hydroxy-1-methyl-2-phenylethyl) -N1-methyl glycinamide
In a dry round-bottomed flask equipped with a magnetic stirrer and an argon inlet was dissolved N (benzyloxycarbonyl)-glycine (5.00 g, 23.9 mmol, 1.0 equiv) in dichloromethane (25 mL). Triethylamine (3.66 mL, 26.3 mmol, 1.1 equiv) was added and the resulting mixture was cooled to 0° C. To the reaction was added dropwise trimethylacetylchloride (2.94 mL, 23.9 mmol, 1.0 equiv). A white precipitate formed and dichloromethane (25 mL) was added to allow efficient stirring. The reaction was stirred for 30 min at 0° C. and then a solution of (+)-pseudoephedrine (4.15 g, 25.1 mmol, 1.05 eq) and triethylamine (3.66 mL, 26.3 mmol, 1.1 eq) in dichloromethane (40 mL) was added via cannula. The reaction was stirred for 30 min at 0° C. Most of the solvent was removed under reduced pressure and water and saturated sodium bicarbonate were added. The product was extracted with two portions of ethyl acetate and the organic extracts were washed with saturated ammonium chloride. The combined organic extracts were dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification of the residue by flash chromatography on silica gel with ethyl acetate/hexanes as the eluent (30%-80% gradient) gave [S-(R*,R*)-N2-(benzyloxycarbonyl)-N1-(2-hydroxy-1-methyl-2-phenylethyl)-N1-methyl glycinamide (6.67g, 78%) as a white foam (1:1 mixture of rotamers): 1H NMR (CDCl3, 300 MHz) δ7.25-7.40 (m, 10H), 6.04 (m, 1H), 5.09 (28, 4H), 4.67 (m, 0.5H), 4.51 (d, 0.5H, J=4.5 Hz), 4.49 (d, 0.5H, J=4.7 Hz), 4.23 (dd, 0.5H, J1 =16.7 Hz, J2=3.8 Hz), 4.15 (s(br), 1H), 4.04 (dd, 0.5H, J1=16.5 Hz, J2=5.1 Hz), 3.92 (d, 1H, J=4.3 Hz), 3.77 (m, 0.5H), 2.88 (s, 1.5H), 2.77 (s, 1.5H), 0.94 (d, 1.5H, J =6.4 Hz), 0.92 (d, 1.5H, J=6.3 Hz); 13C NMR (CDCl3, 75.5 MHz) δ169.3, 169.0, 156.2, 141.4, 141.1, 136.30, 136.26, 128.4, 128.2, 128.02, 127.95, 127.7, 126.6, 126.5, 75.2, 74.6, 66.5, 57.4, 56.1, 42.9, 42.6, 29.3, 26.8, 14.9, 13.9; FTIR (neat film) cm-1 3405, 3323, 3031, 2980, 1719, 1638.

reactant | (benzyloxycarbonyl)-glycine | 23.9 mmol, 5.00 g, 1.0 equiv | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | Triethylamine | 26.3 mmol, 3.66 mL, 1.1 equiv | C(C)N(CC)CC | C6H15N
reactant | trimethylacetylchloride | 23.9 mmol, 2.94 mL, 1.0 equiv | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | (+)-pseudoephedrine | 25.1 mmol, 4.15 g, 1.05 eq | C[C@@H]([C@H](C1=CC=CC=C1)O)NC | C10H15NO
reactant | triethylamine | 26.3 mmol, 3.66 mL, 1.1 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N2-(benzyloxycarbonyl)-N1-(2-hydroxy-1-methyl-2-phenylethyl) -N1-methyl glycinamide | C(C1=CC=CC=C1)OC(=O)NCC(=O)N(C)C(C(C1=CC=CC=C1)O)C | C20H24N2O4
